US04363808
0.5 Gram of 10% palladium on charcoal was prehydrogenated in 100 ml. of absolute ethanol until the uptake of hydrogen stopped. Then, a solution of 10 grams of 1H-benzimidazole-1-propanamine and 6.7 grams of benzaldehyde in 50 ml. of absolute ethanol was added and the mixture was stirred at atmospheric pressure and room temperature under hydrogen until the calculated amount of hydrogen was taken up. The catalyst was then removed by filtration and the solvent was evaporated to leave N-benzyl-1H-benzimidazole-1-propanamine as a colorless oil. This material was sufficiently pure for further reaction but, if desired, a pure sample could be obtained by column chromatography on silica gel.

reactant | hydrogen | [H][H] | H2
reactant | 1H-benzimidazole-1-propanamine | 10 grams | N1(C=NC2=C1C=CC=C2)CCCN | C10H13N3
reactant | benzaldehyde | 6.7 grams | C(C1=CC=CC=C1)=O | C7H6O
catalyst | palladium on charcoal | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | N-benzyl-1H-benzimidazole-1-propanamine | C(C1=CC=CC=C1)NCCCN1C=NC2=C1C=CC=C2 | C17H19N3
